US06506747B1
Synthesis of 1-(4′-Nitrophenyl)-5-(4-methoxyphenyl)-3-methylpyrazole (Method T)
To a solution of 1-(4′-nitrophenyl)-5-bromo-3-methylpyrazole (100 mg, 0.35 mmol) in THF (5 mL) was added Pd(PPh3)4 (20 mg, 0.017 mmol) and 4-methoxyphenylboronic acid (60 mg, 0.39 mmol), followed by 2 M Na2CO3 (0.35 mL, 0.70 mmol). The mixture was heated to reflux for 4 hr, and was then quenched with water and extracted with EtOAc. The extract was dried over MgSO4 and concentrated. The residue was purified by column chromatography on silica gel (hexane/acetate, 15:1) to give the title compound (102 mg, 94%). mp: 155-158° C.

reactant | 1-(4′-nitrophenyl)-5-bromo-3-methylpyrazole | 0.35 mmol, 100 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=C1Br)C | C10H8BrN3O2
reactant | 4-methoxyphenylboronic acid | 0.39 mmol, 60 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 0.70 mmol, 2 M, 0.35 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4′-Nitrophenyl)-5-(4-methoxyphenyl)-3-methylpyrazole | 102 mg, 94% | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)OC)C | C17H15N3O3
